US08754207B2
Preparation of 1,1-dimethoxy cycloheptane. Formula (IIa6)
To a flask with reflux condenser (5 g) cycloheptanone, and 10 ml methanol was taken. (10 ml) (2.0 eq.) trimethyl orthoformate and several crystals of p-toluenesulfonic acid were added in to the reaction mixture and the mixture was stirred at 25-30° C. to about 1.5 hrs. Color of the reaction mixture became pale yellow. Reaction was monitored by TLC. Then remove the methanol on rotavapour. Water was added in to the reaction mixture and extract with ethyl acetate. Organic layer was washed with 5% sodium bicarbonate solution then water and brine solution. Concentrate it on rotavapor yellow colored oily product obtained.

reactant | cycloheptanone | 5 g | C1(CCCCCC1)=O | C7H12O
reactant | trimethyl orthoformate | 10 ml, 2.0 eq. | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 10 ml | CO | CH4O
product | 1,1-dimethoxy cycloheptane | COC1(CCCCCC1)OC | C9H18O2
